US07071175B1
A solution of tert-butyl ethyl methylmalonate (457 mg, 2.26 mmol) in DMF (4 mL) was added dropwise to a suspension of NaH (90 mg, 2.26 mmol, 60% in oil) in DMF (4 mL). The reaction mixture was stirred for 20 min. A solution of (5-bromomethyl-pyridin-2-yl)-carbamic acid tert-butyl ester (500 mg, 1.74 mmol) in DMF (2.5 mL) was added and the reaction was stirred for 70 min. EtOAc was added and the mixture was washed with water and brine, dried and concentrated under reduced pressure. Chromathography (Heptane/EtOAc, 3:1→1:3) gave 2-(6-tert-butoxycarbonylamino-pyridin-3-ylmethyl)-2-methyl-malonic acid tert-butyl ester ethyl ester (437 mg, 61% yield).

reactant | tert-butyl ethyl methylmalonate | 2.26 mmol, 457 mg | CC(C(=O)OC(C)(C)C)C(=O)OCC | C10H18O4
reactant | NaH | 2.26 mmol, 90 mg | [H-].[Na+]
reactant | (5-bromomethyl-pyridin-2-yl)-carbamic acid tert-butyl ester | 1.74 mmol, 500 mg | C(C)(C)(C)OC(NC1=NC=C(C=C1)CBr)=O | C11H15BrN2O2
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | DMF | 2.5 mL | CN(C)C=O | C3H7NO
solvent | Heptane EtOAc | CCCCCCC.CCOC(=O)C
product | 2-(6-tert-butoxycarbonylamino-pyridin-3-ylmethyl)-2-methyl-malonic acid tert-butyl ester ethyl ester | 437 mg, 61% yield | C(C)OC(C(C(=O)OC(C)(C)C)(C)CC=1C=NC(=CC1)NC(=O)OC(C)(C)C)=O | C21H32N2O6
